US05436229
Preparation of N-ethoxycarbonylphenylalanyl(αn-butyl)-L-prolinyl-L-arginine aldehyde EtOCO-Phe(αn-Bu)-Pro-Arg-H.HCl
By methods substantially equivalent to those described in Example 39, 1.47 g of EtOCO-Phe(αn-Bu)-Pro-Arg-H.HCl was prepared from EtOCO-Phe(αn-Bu)-Pro-OBzl (TLC Rf =0.74, 50% ethyl acetate:hexanes). EtOCO-Phe(αn-Bu)-Pro-Arg-H.HCl was purified by RPHPLC (98/2 (A/B), 60 min; to 85/15 (A/B), 300 min).

reactant | EtOCO-Phe(αn-Bu)-Pro-Arg-H.HCl | 1.47 g | C(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1)CCCC.Cl
reactant | EtOCO-Phe(αn-Bu)-Pro-OBzl | C(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)CCCC | C28H36N2O5
product | N-ethoxycarbonylphenylalanyl(αn-butyl)-L-prolinyl-L-arginine aldehyde | C(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)[C@@]1(N(CCC1)CCCC)C(=O)N[C@@H](CCCNC(N)=N)C=O | C27H42N6O5
